US04404138
3-[2-(2-Azabicyclo[2.2.2]oct-2-yl)ethyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 27 from 1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.013 moles), triethylamine (3.9 ml, 0.028 moles), and 2-(2-chloroethyl)-2-azabicyclo[2.2.2]octane hydrochloride (2.9 g, 0.014 moles). Reflux time is 3 weeks. The crude product is dissolved in water, extracted with ethyl acetate, precipitated by the addition of solid potassium carbonate, filtered off, rinsed with water, and dried to yield the final product (2.3 g), mp 112°-113° C.

reactant | 1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.013 moles, 3.0 g | COC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO3
reactant | triethylamine | 0.028 moles, 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(2-chloroethyl)-2-azabicyclo[2.2.2]octane hydrochloride | 0.014 moles, 2.9 g | Cl.ClCCN1C2CCC(C1)CC2
solvent | water | O | H2O
product | 3-[2-(2-Azabicyclo[2.2.2]oct-2-yl)ethyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 2.3 g | C12N(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C=C2)OC | C22H28N2O3
